US08980892B2
To a solution of 4-formyl-2-methyl-benzoic acid tert-butyl ester (Example I2) (1.57 g) in tetrahydrofuran/water (3:1) (20 ml) was added sodium acetate (0.67 g) and N-methylhydroxylamine hydrochloride (0.69 g). The reaction mixture was stirred at 50° C. for 15 hours. The reaction mixture was diluted with ethyl acetate and water. The phases were separated and the organic layer was washed with water, dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: methanol/ethyl acetate 5:5) to give (4-tert-butoxycarbonyl-3-methyl-benzylidene)-N-methyl-nitrone (1.43 g) as yellow oil. 1H-NMR (CDCl3, 400 MHz): 8.10 (s, 1H), 8.02 (d, 1H), 7.85 (d, 1H), 7.35 (s, 1H), 3.90 (s, 3H), 2.60 (s, 3H).

reactant | 4-formyl-2-methyl-benzoic acid tert-butyl ester | 1.57 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C=O)C)=O | C13H16O3
reactant | sodium acetate | 0.67 g | C(C)(=O)[O-].[Na+]
reactant | N-methylhydroxylamine hydrochloride | 0.69 g | Cl.CNO
solvent | tetrahydrofuran water | 20 ml | O1CCCC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (4-tert-butoxycarbonyl-3-methyl-benzylidene)-N-methyl-nitrone | 1.43 g | C(C)(C)(C)OC(=O)C1=C(C=C(C=C=[N+]([O-])C)C=C1)C | C15H19NO3
